US04760163
1.86 g of bromine in 10 ml of acetic acid are added dropwise with stirring to 2.1 g of ammonium thiocyanate in 80 ml of acetic acid at 10°-15° C. during 15 minutes. Then 1.5 g of isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate in 15 ml of acetic acid are added dropwise at 10°-15° C. during 5 minutes, and the reaction mixture is stirred for a further hour at room temperature and thereafter substantially evaporated under reduced pressure. The residue is dissolved in ethyl acetate, the solid material filtered off under suction and the filtrate washed with aqueous sodium bicarbonate solution and thereafter with water. The organic phase is dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using methylene chloride/ethyl acetate (3:1) as eluent. The product is recrystallized from methylene chloride/diethyl ether. Isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-methyl-5-thiocyanato-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 159°-161° C., is obtained.

reactant | bromine | 1.86 g | BrBr | Br2
reactant | ammonium thiocyanate | 2.1 g | [S-]C#N.[NH4+]
reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | 1.5 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=CC1=O)C)=O | C15H14ClFN2O4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | Isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-methyl-5-thiocyanato-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=C(C1=O)SC#N)C)=O | C16H13ClFN3O4S
